US08957074B2
Following nitro group reduction procedure 1, 3-(6-Nitro-pyridin-3-yl)-2-oxo-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (290 mg, 0.83 mmol) in methanol (10 mL) with nitrogen, then added 10% palladium on charcoal (200 mg, excess). Purged with hydrogen and allowed to stir under hydrogen atmosphere for 16 hours. Purged with nitrogen and filtered through a pad of celite, washing with methanol. Concentrated in vacuo which gave 3-(6-Amino-pyridin-3-yl)-2-oxo-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (146 mg, 60%). Used without further purification. 1H NMR (400 MHz, DMSO-d6) δ 7.73 (d, J=2.6 Hz, 1H), 7.21 (dd, J=9.1, 2.6 Hz 1H), 6.43 (d, J=9.1 Hz, 1H), 6.01 (s, 2H), 4.38 (br. s, 1H), 4.26 (m, 1H), 3.77 (m, 1H), 3.30 (m, 1H), 2.17-2.07 (m, 2H), 2.02-1.95 (m, 2H), 1.43 (s, 9H); MS m/z 319.5 (MH+).

reactant | 3-(6-Nitro-pyridin-3-yl)-2-oxo-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.83 mmol, 290 mg | C(C)(C)(C)OC(=O)N1C2C(N(CC1CC2)C=2C=NC(=CC2)[N+](=O)[O-])=O | C16H20N4O5
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
product | 3-(6-Amino-pyridin-3-yl)-2-oxo-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 146 mg, 60% | C(C)(C)(C)OC(=O)N1C2C(N(CC1CC2)C=2C=NC(=CC2)N)=O | C16H22N4O3
